US08278442B2
Preparation 22: 6-(5-Methylnaphthalen-1-yloxy)nicotinonitrile
Using the procedure outlined in Preparation 15, 5-methylnaphthalen-1-ol and 6-chloronicotinonitrile were converted to the title compound: RT=3.90 min; m/z (ES+)=261.1 [M+H]+.

reactant | 5-methylnaphthalen-1-ol | CC1=C2C=CC=C(C2=CC=C1)O | C11H10O
reactant | 6-chloronicotinonitrile | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
product | 6-(5-Methylnaphthalen-1-yloxy)nicotinonitrile | CC1=C2C=CC=C(C2=CC=C1)OC1=NC=C(C#N)C=C1 | C17H12N2O
